US07713994B2
(4Z)-6-Bromo-4-[(2,3-dihydro-1H-indol-5-ylamino)methylene]isoquinoline-1,3(2H,4H)-dione
6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione (250 mg, 0.89 mmol), 2,3-dihydro-1H-indol-5-ylamine×2HCl (184 mg, 0.89 mmol) and Et3N (0.37 mL, 2.67 mmol) in N,N-dimethylformamide (DMF) (10 mL) is stirred for 4 days. The reaction mixture is concentrated in vacuo and the residue is triturated in H2O for 24 hours. The precipitate is filtered, washed with H2O and dried in vacuo to give 370 mg of the title compound as a brown solid. HRMS (ESI) m/z calcd for C18H14BrN3O2 (M+H)+1 384.03422. found: 384.03553. The compound is contains 29% of 4-(5-amino-2,3-dihydro-indol-1-ylmethylene)-6-bromo-4H-isoquinoline-1,3-dione.

reactant | 6-Bromo-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.89 mmol, 250 mg | BrC=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C11H8BrNO3
reactant | 2,3-dihydro-1H-indol-5-ylamine | N1CCC2=CC(=CC=C12)N | C8H10N2
reactant | Et3N | 2.67 mmol, 0.37 mL | CCN(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (4Z)-6-Bromo-4-[(2,3-dihydro-1H-indol-5-ylamino)methylene]isoquinoline-1,3(2H,4H)-dione | 370 mg | BrC=1C=C2/C(/C(NC(C2=CC1)=O)=O)=C/NC=1C=C2CCNC2=CC1 | C18H14BrN3O2
